US07923456B2
Step 5: 5-Aminomethyl-3-(2-fluoro-4-trimethylsilanyl-phenylamino)-pyrazine-2-carboxylic acid methyl ester
To a solution of 5-cyano-3-(2-fluoro-4-trimethylsilanyl-phenylamino)-pyrazine-2-carboxylic acid methyl ester (600 mg, 1.74 mmol) in concentrated glacial acetic acid (12 mL) was added 10% Pd on carbon (120 mg). The reaction mixture was evacuated with vacuum and purged with H2 (3×), then stirred under an atmosphere of H2 for 3.5 hours. The reaction mixture was then filtered through a pad of Celite®. The filtrate was concentrated in vacuo to give the desired product as the HOAc salt. LCMS (method C): RT=2.51 min, [M+H]+=349.

reactant | 5-cyano-3-(2-fluoro-4-trimethylsilanyl-phenylamino)-pyrazine-2-carboxylic acid methyl ester | 1.74 mmol, 600 mg | COC(=O)C1=NC=C(N=C1NC1=C(C=C(C=C1)[Si](C)(C)C)F)C#N | C16H17FN4O2Si
solvent | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
catalyst | Pd on carbon | 120 mg | [Pd] | Pd
product | 5-Aminomethyl-3-(2-fluoro-4-trimethylsilanyl-phenylamino)-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(N=C1NC1=C(C=C(C=C1)[Si](C)(C)C)F)CN | C16H21FN4O2Si
